US05594023
5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-1-[[1-(methoxycarbonyl)indolin-5-yl]sulfonyl]-3-[(3-methoxypropyl)amino]indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 222 from 1.3 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[(3-methoxypropyl)amino]indol-2-one and 0.980 g of 1-(methoxycarbonyl)indoline-5-sulfonyl chloride. 1.5 g of the expected product are obtained after crystallization from a DCM/iso ether/hexane mixture. M.p.=98° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[(3-methoxypropyl)amino]indol-2-one | 1.3 g | ClC=1C=C2C(C(NC2=CC1)=O)(NCCCOC)C1=C(C=CC=C1)Cl | C18H18Cl2N2O2
reactant | 1-(methoxycarbonyl)indoline-5-sulfonyl chloride | 0.980 g | COC(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C10H10ClNO4S
product | 5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-1-[[1-(methoxycarbonyl)indolin-5-yl]sulfonyl]-3-[(3-methoxypropyl)amino]indol-2-one | 1.5 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C=1C=C2CCN(C2=CC1)C(=O)OC)=O)(NCCCOC)C1=C(C=CC=C1)Cl | C28H27Cl2N3O6S
